US07947255B2
4-(4-(dimethylamino)phenyl)-1-propylpyridinium iodide (IDT322) (V).
N,N-dimethyl-4-(pyridine-4-yl) aniline (0.2 g, 11 mmols) was dissolved in acetonitrile (50 ml) and propyl iodide (4 ml) was added. The mixture was heated at reflux for 4 hours then cooled to ambient temperature. Diethylether (50 ml) was added IDT322 (0.11 g, 2.9 mmols) crystallized upon standing and was removed via filtration. 1H NMR (DMSO-d6) δ 1.40 (t, 3H), 1.92 (q, 2H) 3.40 (s, 6H), 4.45 (t, 2H), 6.85 (t, 2H), 8.02 (d, 2H), 8.39 (d, 2H), 8.82 (d, 2H).

reactant | N,N-dimethyl-4-(pyridine-4-yl) aniline | 11 mmols, 0.2 g | CN(C1=CC=C(C=C1)C1=CC=NC=C1)C | C13H14N2
reactant | propyl iodide | 4 ml | C(CC)I | C3H7I
reactant | Diethylether | 50 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(4-(dimethylamino)phenyl)-1-propylpyridinium iodide | [I-].CN(C1=CC=C(C=C1)C1=CC=[N+](C=C1)CCC)C | InChI=1S/C16H21N2.HI/c1-4-11-18-12-9-15(10-13-18)14-5-7-16(8-6-14)17(2)3;/h5-10,12-13H,4,11H2,1-3H3;1H/q+1;/p-1
